US07498338B2
(3S)-1-({2-[(2S)-Oxiran-2-ylmethoxy]phenyl}acetyl)pyrrolidin-3-ol
A mixture of (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (228 mg, 0.88 mmol), (3S)-1-[(2-hydroxyphenyl)acetyl]pyrrolidin-3-ol (196 mg, 0.88 mmol) and Cs2CO3 (344 mg, 1.05 mmol) in DMF (5 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography/(0-3% methanol in dichloromethane) to give the subtitled compound (35 mg).

reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 0.88 mmol, 228 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | (3S)-1-[(2-hydroxyphenyl)acetyl]pyrrolidin-3-ol | 0.88 mmol, 196 mg | OC1=C(C=CC=C1)CC(=O)N1C[C@H](CC1)O | C12H15NO3
reactant | Cs2CO3 | 1.05 mmol, 344 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (3S)-1-({2-[(2S)-Oxiran-2-ylmethoxy]phenyl}acetyl)pyrrolidin-3-ol | 35 mg | O1[C@@H](C1)COC1=C(C=CC=C1)CC(=O)N1C[C@H](CC1)O | C15H19NO4
